* source MCU_POWER_BUTTON
V_V1         N00083 0 3.7VDC
R_R1         N00123 N00083  10k TC=0,0 
R_R2         N00130 N00083  100k TC=0,0 
C_C1         N00123 N00130  100n  TC=0,0 
C_C2         N00130 N00083  100n  TC=0,0 
C_C3         N00814 N00807  10u  TC=0,0 
R_R3         N00814 N00885  300k TC=0,0 
R_R4         N00885 N00807  100k TC=0,0 
S_U1         N00123 0 N01793 0 _U1
.MODEL      _U1 VSWITCH Roff=100000000 Ron=0.01 VH=0 VT=2VDC TD=0
V_V2         N01793 0  
+PULSE 0 3.7 5 0 0 0.5 20
V_V3         N07567 0  
+PULSE 3.7 0 5.25 0 0 22 40
S_U2         N00885 0 N07567 0 _U2
.MODEL      _U2 VSWITCH Roff=1000000000 Ron=0.01 VH=0 VT=2VDC TD=0
M_M1         N00807 N00130 N00083 N00083 Mbreakp           
M_M2         N00130 N00814 0 0 MbreakN           
X_D1         N00885 N00123 awb1n4001 PARAMS:                
